US06664238B1
2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propyl acetate
To a solution of 4-pyridin-3-yl-imidazole (50 mg) in DMSO (methyl sulfoxide) (1.7 mL) was added powered KOH (57 mg) and 3-bromo-2,2-dimethylpropyl acetate and the resulting suspension was heated at 70° C. for 48 hours. Water was added followed by CHCl3, the aqueous layer was extracted with CHCl3, the combined organic layers were washed with brine, dired over Na2SO4 and evaporated in vacuo. The redisue was purified by preparative TLC (10% MeOH-90% CH2Cl2) the title compound as slightly yellow oil.

reactant | 4-pyridin-3-yl-imidazole | 50 mg | N1=CC(=CC=C1)C=1N=CNC1 | C8H7N3
reactant | KOH | 57 mg | [OH-].[K+]
reactant | 3-bromo-2,2-dimethylpropyl acetate | C(C)(=O)OCC(CBr)(C)C | C7H13BrO2
reactant | Water | O | H2O
solvent | DMSO | 1.7 mL | CS(=O)C | C2H6OS
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2,2-Dimethyl-3-(4-pyridin-3-yl-imidazol-1-yl)-propyl acetate | C(C)(=O)OCC(CN1C=NC(=C1)C=1C=NC=CC1)(C)C | C15H19N3O2
